US06812355B2
(4 -bromo-2-(hydroxymethyl)phenyl)-(4′-flourophenyl)-(3-dimethylaminopropyl) methanol
A Grignard solution was prepared from p-fluorobromobenzene (197.6 g) and magnesium turnings (28.15 g) in tetrahydrofuran (1250 ml), in the presence of 1,2-dibromoethane and iodine. The Grignard solution was added to a suspension in tetrahydrofuran (1050 ml) of 5-bromophthalide (150 g) and magnesium bromide, prepared in situ from magnesium and 1,2-dibromoethane over a period of two hours at a temperature below 20° C. After addition was complete, the mixture was stirred, and a Grignard solution of N,N-dimethylaminopropylmagnesium chloride was added to the solution over a period of time at a temperature below 20° C. for more than one hour. The result was mixture was poured into saturated ammonium chloride solution (4500 ml) over a period of time at a temperature below 30° C.

reactant | p-fluorobromobenzene | 197.6 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | magnesium | 28.15 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | iodine | II | I2
reactant | 5-bromophthalide | 150 g | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | magnesium bromide | [Br-].[Mg+2].[Br-]
reactant | N,N-dimethylaminopropylmagnesium chloride | CN(C)CCC[Mg]Cl
reactant | ammonium chloride | 4500 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1050 ml | O1CCCC1 | C4H8O
product | (4 -bromo-2-(hydroxymethyl)phenyl)-(4′-flourophenyl)-(3-dimethylaminopropyl) methanol | BrC1=CC(=C(C=C1)C(O)(CCCN(C)C)C1=CC=C(C=C1)F)CO | C19H23BrFNO2
